US06124323
To a suspension of sodium hydride (1.62 g, 60%, 40.5 mmol) in 20 ml of anhydrous THF at room temperature was added ethanol (2.5 ml) slowly. Diethyl oxalate (5.5 ml, 40.50 mmol) and 2-methyl-1-nitro-4-[2-(phenylmethoxy)ethoxy]benzene (10.19 g, 35.49 mmol) was added to the solution slowly after hydrogen evolution subsided. The reaction was heated at 60° C. for 2 h. The deep red solution was cooled to 0° C. and quenched with 50 ml of 3N HCl solution. Brine (50 ml) was added and the mixture was extracted with EtOAc (2×100 ml). The combined organic layers was dried with MgSO4, filtered and concentrated. The brown oil was chromatographed on silica gel with 20% ethyl acetate in hexanes to elute out starting material and then with 35% ethyl acetate in hexanes to give 9.93 g (72%) of 3-[5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-2-oxo-propionic acid ethyl ester as a yellow oil. 1H NMR (CDCl3) 8.18 (1H, d, J=9.29), 7.35-7.25 (5H, m), 6.91 (1H, dd, J=9.29, 2.69), 6.77 (1H, d, J=2.69), 4.59 (2H, s), 4.44 (2H, s), 4.35 (2H, q, J=7.32), 4.19 (2H, m), 3.81 (2H, m), 1.37 (3H, t, J=7.32).

reactant | sodium hydride | 40.5 mmol, 1.62 g | [H-].[Na+]
reactant | Diethyl oxalate | 40.50 mmol, 5.5 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-methyl-1-nitro-4-[2-(phenylmethoxy)ethoxy]benzene | 35.49 mmol, 10.19 g | CC1=C(C=CC(=C1)OCCOCC1=CC=CC=C1)[N+](=O)[O-] | C16H17NO4
reactant | hydrogen | [H][H] | H2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 3-[5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-2-oxo-propionic acid ethyl ester | 9.93 g, 72% | C(C)OC(C(CC1=C(C=CC(=C1)OCCOCC1=CC=CC=C1)[N+](=O)[O-])=O)=O | C20H21NO7
